US04831148
A solution of 14.95 g (0.10 mol) of 5-chloro-2,3-difluoropyridine in 30 ml of acetonitrile is added dropwise to a mixture of 21.6 g (0.11 mol) of methyl 2-(4-hydroxyphenoxy)propionate, 15.2 g (0.11 mol) of potassium carbonate, 1.45 g (0.0055 mol) of 18-crown-6 and 100 ml of acetonitrile and the reaction mixture is then heated for 40 hours to a temperature in the range from 50° to 60° C. The mixture is taken up in ice water, the organic phase is separated, the aqueous phase is extracted three times with ethyl acetate and the combined organic phases are dried and concentrated by evaporation, affording an oily residue which for purification is dissolved in a mixture of hexane and ethyl acetate and filtered through silica gel. The solvent is evaporated off, affording from the filtrate 20.4 g (63% of theory) of methyl 2-[4-(5-chloro-3-fluoropyridin-2-yloxy)phenoxy]propionate, m.p. 58° -59° C.

reactant | 5-chloro-2,3-difluoropyridine | 0.10 mol, 14.95 g | ClC=1C=C(C(=NC1)F)F | C5H2ClF2N
reactant | methyl 2-(4-hydroxyphenoxy)propionate | 0.11 mol, 21.6 g | OC1=CC=C(OC(C(=O)OC)C)C=C1 | C10H12O4
reactant | potassium carbonate | 0.11 mol, 15.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
catalyst | 18-crown-6 | 0.0055 mol, 1.45 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | methyl 2-[4-(5-chloro-3-fluoropyridin-2-yloxy)phenoxy]propionate | 20.4 g, 63% | ClC=1C=C(C(=NC1)OC1=CC=C(OC(C(=O)OC)C)C=C1)F | C15H13ClFNO4
